US09102614B2
Step 2: Preparation of (S)-ethyl 2-tert-butoxy-2-(1-(4-chlorophenyl)-3-methyl-6-(pyrimidin-2-yl)naphthalen-2-yl)acetate:
(S)-Ethyl 2-tert-butoxy-2-(1-(4-chlorophenyl)-3-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)naphthalen-2-yl)acetate (0.072 g, 0.13 mmol), 2-bromopyrimidine (0.032 g, 0.20 mmol), PdCl2(dppf) (0.005 g, 0.007 mmol) were taken up in 3/1 PhMe/EtOH (1 mL). The resulting solution was treated with 2 M K2CO3 (0.35 mL, 0.70 mmol), sealed and sparged with Ar for 10 min. After 2.5 h of heating at 50° C. and cooling to room temperature, the crude reaction mixture was purified by Yamazen column chromatography (20-100% EtOAc/Hex) to produce 0.042 g (64%) of a colorless film. LCMS-ESI+ (m/z): [M]+ calcd for C29H29ClN2O3: 489.01; found: 489.51.

reactant | (S)-Ethyl 2-tert-butoxy-2-(1-(4-chlorophenyl)-3-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)naphthalen-2-yl)acetate | 0.13 mmol, 0.072 g | C(C)(C)(C)O[C@H](C(=O)OCC)C1=C(C2=CC=C(C=C2C=C1C)B1OC(C(O1)(C)C)(C)C)C1=CC=C(C=C1)Cl | C31H38BClO5
reactant | 2-bromopyrimidine | 0.20 mmol, 0.032 g | BrC1=NC=CC=N1 | C4H3BrN2
reactant | K2CO3 | 0.70 mmol, 2 M, 0.35 mL | C(=O)([O-])[O-].[K+].[K+]
catalyst | PdCl2(dppf) | 0.007 mmol, 0.005 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | PhMe EtOH | 1 mL | C1(=CC=CC=C1)C.CCO
product | (S)-ethyl 2-tert-butoxy-2-(1-(4-chlorophenyl)-3-methyl-6-(pyrimidin-2-yl)naphthalen-2-yl)acetate | C(C)(C)(C)O[C@H](C(=O)OCC)C1=C(C2=CC=C(C=C2C=C1C)C1=NC=CC=N1)C1=CC=C(C=C1)Cl | C29H29ClN2O3
